US05198547
The method of claim 1 wherein said treating comprises adding 1,1'-carbonyl-diimidazole to a solution of (6S)-tetrahydrofolic acid and formic acid in substantially dry N,N-dimethyl-formamide, whereby N5-Formyl-(6S)-tetrahydrofolic acid is produced.

reactant | 1,1'-carbonyl-diimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (6S)-tetrahydrofolic acid | C(CC[C@@H](C(=O)O)NC(=O)C1=CC=C(NC[C@H]2CNC=3N=C(N)NC(=O)C3N2)C=C1)(=O)O | C19H23N7O6
reactant | formic acid | C(=O)O | CH2O2
solvent | N,N-dimethyl-formamide | CN(C=O)C | C3H7NO
product | N5-Formyl-(6S)-tetrahydrofolic acid | C(=O)N1C=2C(NC(=NC2NC[C@@H]1CNC1=CC=C(C(N[C@@H](CCC(=O)O)C(=O)O)=O)C=C1)N)=O | C20H23N7O7
